* DFRTND1 : abstract conversion of sky130_fd_sc_hd__dfrtn_1
* 35 abstract devices (width -> parallel min-width fingers)
.subckt DFRTND1 CLK_N D RESET_B VGND VPWR Q
XDFRTND1B CLK_N D RESET_B VGND VGND VPWR VPWR Q DFRTND1B
.ends DFRTND1

.subckt DFRTND1B CLK_N D RESET_B VGND VNB VPB VPWR Q
X0 a_1270_413# a_1283_21# VPWR VPB abpmos
X1 a_761_289# a_543_47# VPWR VPB abpmos
X2 a_761_289# a_543_47# VPWR VPB abpmos
X3 a_761_289# a_543_47# VGND VNB abnmos
X4 a_761_289# a_543_47# VGND VNB abnmos
X5 a_448_47# D VGND VNB abnmos
X6 a_1108_47# a_27_47# a_1270_413# VPB abpmos
X7 Q a_1283_21# VGND VNB abnmos
X8 Q a_1283_21# VGND VNB abnmos
X9 a_1217_47# a_1283_21# VGND VNB abnmos
X10 a_448_47# a_193_47# a_543_47# VNB abnmos
X11 a_448_47# a_27_47# a_543_47# VPB abpmos
X12 a_543_47# a_27_47# a_639_47# VNB abnmos
X13 a_1108_47# a_193_47# a_1217_47# VNB abnmos
X14 a_1462_47# a_1108_47# a_1283_21# VNB abnmos
X15 a_543_47# a_193_47# a_651_413# VPB abpmos
X16 a_805_47# RESET_B VGND VNB abnmos
X17 a_761_289# a_27_47# a_1108_47# VNB abnmos
X18 a_651_413# RESET_B VPWR VPB abpmos
X19 a_193_47# a_27_47# VGND VNB abnmos
X20 a_27_47# CLK_N VGND VNB abnmos
X21 a_27_47# CLK_N VPWR VPB abpmos
X22 a_27_47# CLK_N VPWR VPB abpmos
X23 Q a_1283_21# VPWR VPB abpmos
X24 Q a_1283_21# VPWR VPB abpmos
X25 Q a_1283_21# VPWR VPB abpmos
X26 a_193_47# a_27_47# VPWR VPB abpmos
X27 a_193_47# a_27_47# VPWR VPB abpmos
X28 a_1283_21# a_1108_47# VPWR VPB abpmos
X29 a_1462_47# RESET_B VGND VNB abnmos
X30 a_448_47# D VPWR VPB abpmos
X31 a_651_413# a_761_289# VPWR VPB abpmos
X32 a_761_289# a_193_47# a_1108_47# VPB abpmos
X33 a_1283_21# RESET_B VPWR VPB abpmos
X34 a_639_47# a_761_289# a_805_47# VNB abnmos
.ends DFRTND1B
